US07056916B2
(c) 6-benzyloxy-8-{2-[2-(3,5-difluorophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one
Prepared from 1.73 g (4.84 mmol) of benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 0.80 g (4.32 mmol) of 2-(3,5-difluorophenyl)-1,1-dimethylethylamine in the usual way. Yield: 1.50 g (58%, hydrochloride); melting point: 240° C.–244° C.

reactant | benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 4.84 mmol, 1.73 g | C(C1=CC=CC=C1)OC1OC2=C(NC1=O)C=CC=C2C(C(O)OCC)=O | C19H19NO6
reactant | 2-(3,5-difluorophenyl)-1,1-dimethylethylamine | 4.32 mmol, 0.80 g | FC=1C=C(C=C(C1)F)CC(C)(C)N | C10H13F2N
reactant | hydrochloride | Cl | ClH
product | 6-benzyloxy-8-{2-[2-(3,5-difluorophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC(=CC(=C1)F)F)(C)C)O | C27H28F2N2O4
